US07745451B2
A. 6-Benzyl-N-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine
6-Benzyl-4-chloro-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidine (0.6 g, 2.3 mmol) was dissolved in anhydrous dioxane (2 mL) and 4-(trifluoromethyl)aniline was added (0.43 mL, 3.45 mmol), followed by HI/H2O (0.2 ml, 47%). The mixture was heated at 130° C. in a sealed tube for 10 min in a microwave (Smith creator model, Personal Chemistry). The solvents were removed under vacuum and the residue was dissolved in ethyl acetate and washed with sat. NaHCO3 and brine. The organic layer was dried over Na2SO4, filtered and evaporated to give the desired compound as a yellow solid (800 mg, 91%) which was used as such for the next step.

reactant | 6-Benzyl-4-chloro-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidine | 2.3 mmol, 0.6 g | C(C1=CC=CC=C1)N1CC2=C(N=CN=C2Cl)CC1 | C14H14ClN3
reactant | 4-(trifluoromethyl)aniline | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | HI H2O | 0.2 ml | I.O
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 6-Benzyl-N-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine | 800 mg, 91% | C(C1=CC=CC=C1)N1CC2=C(N=CN=C2NC2=CC=C(C=C2)C(F)(F)F)CC1 | C21H19F3N4
